US05650533
A solution of sodium nitrite (16.31 g) in concentrated sulphuric acid was added dropwise to a solution of 2-chloro-4-trifluoromethoxyaniline (50 g) in acetic acid, while maintaining the temperature below 10° C. The mixture was stirred at 5°-10° C. for 0.5 hours then added slowly to a mixture of cuprous bromide (33.9 g) in aqueous hydrobromic acid (200 ml) and ice. The mixture was stirred at room temperature for 0.5 hours and left to stand overnight. The mixture was diluted with water and extracted with dichloromethane, washed with water, dried (MgSO4) and filtered. The filtrate was evaporated to dryness to give 2-chloro-4-trifluoromethoxybromobenzene (63.64 g) as a brown oil which was not further purified.

reactant | sodium nitrite | 16.31 g | N(=O)[O-].[Na+]
reactant | 2-chloro-4-trifluoromethoxyaniline | 50 g | ClC1=C(N)C=CC(=C1)OC(F)(F)F | C7H5ClF3NO
reactant | hydrobromic acid | 200 ml | Br | BrH
solvent | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-chloro-4-trifluoromethoxybromobenzene | 63.64 g | ClC1=C(C=CC(=C1)OC(F)(F)F)Br | C7H3BrClF3O
